US07309701B2
Working as in example 13 for the preparation of ethyl 3-[(3-oxo-6-pyridin-4-yl-2,3-dihydropyridazine-4-carbonyl)amino]propionate, but starting with 0.3 g of 3-oxo-6-pyridin-4-yl-2,3-dihydropyridazine-4-carboxylic acid, 30 cm3 of N,N-dimethylformamide, 0.233 g of 1-hydroxybenzotriazole, 0.18 cm3 of 3-(aminomethyl)pyridine, 0.31 cm3 of N,N-diisopropylethylamine and 0.65 g of O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate, 0.046 g of 3-oxo-6-pyridin-4-yl-N-(pyridin-3-ylmethyl)-2,3-dihydropyridazine-4-carboxamide was obtained in the form of a yellow solid melting at 262° C.

reactant | ethyl 3-[(3-oxo-6-pyridin-4-yl-2,3-dihydropyridazine-4-carbonyl)amino]propionate | O=C1NN=C(C=C1C(=O)NCCC(=O)OCC)C1=CC=NC=C1 | C15H16N4O4
reactant | 3-oxo-6-pyridin-4-yl-2,3-dihydropyridazine-4-carboxylic acid | 0.3 g | O=C1NN=C(C=C1C(=O)O)C1=CC=NC=C1 | C10H7N3O3
reactant | 1-hydroxybenzotriazole | 0.233 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 3-(aminomethyl)pyridine | 0.18 cm3 | NCC=1C=NC=CC1 | C6H8N2
reactant | N,N-diisopropylethylamine | 0.31 cm3 | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.65 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethylformamide | 30 cm3 | CN(C=O)C | C3H7NO
product | 3-oxo-6-pyridin-4-yl-N-(pyridin-3-ylmethyl)-2,3-dihydropyridazine-4-carboxamide | 0.046 g | O=C1NN=C(C=C1C(=O)NCC=1C=NC=CC1)C1=CC=NC=C1 | C16H13N5O2
